US09212187B2
Synthesis of 5-[{1-(3-chloropropyl)-1H-benzoimidazol-2-yl}methyl]-2-methyl-5H-furo[3,2-c]pyridin-4-one
5-(1H-Benzimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one(0.75 g), 1-bromo-3-chloropropane(1.3 ml), and potassium carbonate(0.95 g) were added to 50% hydrous acetonitrile(16 ml). The mixture was heated overnight under reflux. The reaction mixture was cooled to room temperature. Water was added thereto, followed by extraction by ethyl acetate. The organic layer was dried over sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1→0:1). The purified product was condensed to dryness under reduced pressure to give the title compound(0.18 g) as a colorless oily matter.

reactant | 5-(1H-Benzimidazol-2-ylmethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one | 0.75 g | N1C(=NC2=C1C=CC=C2)CN2C(C1=C(C=C2)OC(=C1)C)=O | C16H13N3O2
reactant | 1-bromo-3-chloropropane | 1.3 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 5-[{1-(3-chloropropyl)-1H-benzoimidazol-2-yl}methyl]-2-methyl-5H-furo[3,2-c]pyridin-4-one | 0.18 g | ClCCCN1C(=NC2=C1C=CC=C2)CN2C(C1=C(C=C2)OC(=C1)C)=O | C19H18ClN3O2
